US08669266B2
(vi) 4-((S)-2-{[4-((R)-1-Benzyloxycarbonyl-ethoxy)-7-methyl-quinoline-2-carbonyl]-amino}-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid butyl ester
To a solution of 2 g 4-{(S)-4-tert-Butoxycarbonyl-2-[(4-hydroxy-7-methyl-quinoline-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid butyl ester and 647 mg benzyl-L-lactate in 25 ml THF were added 1.4 g triphenylphosphine and 938 mg diethylazodicarboxylate. After stirring for 16 h at RT LCMS indicated complete conversion and water was added to the reaction mixture which was subsequently extracted with ethyl acetate. The residue obtained after evaporation of the solvent was purified by flash chromatography on silica using an ethyl acetate/heptane gradient. Yield: 1.7 g.

reactant | 4-{(S)-4-tert-Butoxycarbonyl-2-[(4-hydroxy-7-methyl-quinoline-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid butyl ester | 2 g | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC(=CC=C2C(=C1)O)C)=O | C29H40N4O7
reactant | benzyl-L-lactate | 647 mg | C(C1=CC=CC=C1)OC([C@@H](O)C)=O | C10H12O3
reactant | triphenylphosphine | 1.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 938 mg | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-((S)-2-{[4-((R)-1-Benzyloxycarbonyl-ethoxy)-7-methyl-quinoline-2-carbonyl]-amino}-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC(=CC=C2C(=C1)O[C@H](C)C(=O)OCC1=CC=CC=C1)C)=O | C39H50N4O9
